US07772234B2
Step H: Preparation of 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid methyl ester.
To a solution of 4-amino-2-(2,4-dichlorophenylamino)-3-fluoro-5-isopropenyl-benzoic acid methyl ester (89.9 mg, 0.243 mmol) in THF (2 mL) and conc. H2SO4 (0.050 mL, 0.94 mmol) was added a solution of NaNO2 (24.0 mg, 0.348 mmol) in water (0.5 mL) at 0° C. The reaction temperature was kept below 5° C. during the addition. The reaction mixture was warmed to room temperature, and 2 mL of water was added. After stirring in the dark for 4 days, the reaction mixture was diluted with EtOAc, and washed with water. The organic layer was separated, dried over MgSO4, filtered, and concentrated in vacuo to give the crude material which was purified by silica gel flash column chromatography (100% CH2Cl2 to 1% MeOH in CH2Cl2) to afford the desired product (54 mg, 58%).

reactant | 4-amino-2-(2,4-dichlorophenylamino)-3-fluoro-5-isopropenyl-benzoic acid methyl ester | 0.243 mmol, 89.9 mg | COC(C1=C(C(=C(C(=C1)C(=C)C)N)F)NC1=C(C=C(C=C1)Cl)Cl)=O | C17H15Cl2FN2O2
reactant | H2SO4 | 0.94 mmol, 0.050 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 0.348 mmol, 24.0 mg | N(=O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 2 mL | O | H2O
product | 7-(2,4-dichlorophenylamino)-8-fluoro-4-methyl-cinnoline-6-carboxylic acid methyl ester | 54 mg, 58% | COC(=O)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Cl)Cl)F)C | C17H12Cl2FN3O2
